US08076345B2
A) 2-(4-Methoxy-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile
A 100 mL flask was charged with 4-methoxy-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine (2.78 g, 16 mmol), 2-bromo-5-methylbenzonitrile (4.18 g, 19.2 mmol), bis(dibenzylideneacetone)palladium(0) (372 mg, 0.64 mmol), xantphos (529 mg, 0.896 mmol), and sodium tert-butoxide (2.33 g, 24 mmol), capped with a septum and purged with nitrogen. Dry argon-sparged toluene (50 mL) was added. The heterogeneous mixture was placed in an oil bath at 100° C., and heated under argon overnight. After 14 hours, TLC showed the reaction was complete. The mixture was removed from the heat, diluted with ethyl acetate (50 mL), filtered and concentrated in vacuo. The residue was purified by silica gel column (0-100% EtOAc/hexane) to afford a light orange solid.

reactant | 4-methoxy-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | 16 mmol, 2.78 g | COC=1C2=C(N=CN1)CCNC2 | C8H11N3O
reactant | 2-bromo-5-methylbenzonitrile | 19.2 mmol, 4.18 g | BrC1=C(C#N)C=C(C=C1)C | C8H6BrN
reactant | xantphos | 0.896 mmol, 529 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium tert-butoxide | 24 mmol, 2.33 g | CC(C)([O-])C.[Na+]
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.64 mmol, 372 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 2-(4-Methoxy-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | COC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C16H16N4O
